US05665748
A mixture of ethyl 2-hydroxy-4-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]butyrate (0.45 g), powdery potassium cyanate (0.24 g) and butanol (20 ml) was heated for 4 days under reflux. The solvent was distilled off under reduced pressure, and the residue was acidified with 2N HCl, followed by extraction with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4), and concentrated. The concentrate was purified by means of a silica gel column chromatography. From the fractions eluted with chloroform-methanol (100:3) was obtained 5-[2-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]ethyl]-2,4-oxazolidinedione (0.28 g, 63%). The product was recrystallized from dichloromethane-ethanol to give colorless prisms, m.p.193°-194° C.

reactant | ethyl 2-hydroxy-4-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]butyrate | 0.45 g | OC(C(=O)OCC)CCC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C24H27NO5
reactant | potassium cyanate | 0.24 g | [O-]C#N.[K+]
solvent | butanol | 20 ml | C(CCC)O | C4H10O
product | 5-[2-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]ethyl]-2,4-oxazolidinedione | 0.28 g, 63% | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C=C1)CCC1C(NC(O1)=O)=O | C23H22N2O5
